US06894061B2
4-[(8-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]-2-methylphenol
A mixture of 8-fluoro-5-[(4-methoxy-3-methylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine (0.30 g, 0.75 mmol) and tetrabutylammonium iodide (0.69 g, 1.9 mmol) was treated with 1 M boron trichloride in dichloromethane (1.9 mL, 1.9 mmol) at room temperature. After stirring for 24 hours at room temperature, the mixture was treated sequentially with water (20 mL), a saturated, aqueous, sodium bicarbonate solution (50 mL), and ether (20 mL). The separated aqueous phase was extracted with diethyl ether (3×25 mL). The combined organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to a residue. The residue was purified by flash column chromatography on silica gel, eluting with a mixture of ethyl acetate-hexane (1:4 to 3:7 gradient) to yield, the title compound as a homogeneous solid (0.21 g, 73%), m.p. 196° C.;

reactant | 8-fluoro-5-[(4-methoxy-3-methylphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridine | 0.75 mmol, 0.30 g | FC=1C=C2C(N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC(=C(C=C1)OC)C)C | C22H20FNO3S
reactant | boron trichloride | 1 M | B(Cl)(Cl)Cl | BCl3
reactant | dichloromethane | 1.9 mmol, 1.9 mL | ClCCl | CH2Cl2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium iodide | 1.9 mmol, 0.69 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | water | 20 mL | O | H2O
product | 4-[(8-Fluoro-6-methylphenanthridin-5(6H)-yl)sulfonyl]-2-methylphenol | 0.21 g, 73% | FC=1C=C2C(N(C=3C=CC=CC3C2=CC1)S(=O)(=O)C1=CC(=C(C=C1)O)C)C | C21H18FNO3S
